US07767660B2
Step 4: methyl (7R)-7-amino-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Methyl (7R)-7-[(tert-butoxycarbonyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (0.14 M) in DCM was treated with TFA (10 eq) and stirred at RT for 1 h. The reaction was diluted with DCM and cautiously basified with aq. NaHCO3, before separating the phases and extracting the aqueous with DCM. The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford the product as an off-white foam (100%) that was used without further purification. (ES+) m/z 405 (M+H)+; [α]D+42.3, c=1, MeOH

reactant | Methyl (7R)-7-[(tert-butoxycarbonyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.14 M | C(C)(C)(C)OC(=O)N[C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2 | C30H36N2O5
reactant | TFA | 10 eq | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl (7R)-7-amino-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 100% | N[C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2 | C25H28N2O3
